US07501411B2
Step 3: 5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-2,3-dihydro-isoindol-1-one
5-Bromo-2,3-dihydro-isoindol-1-one (230 mg, 1.08 mmol), bis(pinacolato)diboron (300 mg, 1.18 mmol), PdCl2dppf (25 mg, 31 mol) and KOAc (320 mg, 3.26 mmol) are suspended in dioxane (4 mL), purged with nitrogen for 5 minutes and then heated at 85° C. overnight. The solvent is removed in vacuo and the residue partitioned between ethyl acetate and water. The aqueous layer is extracted with ethyl acetate (3×) and the combined organic phases are washed once with brine, filtered through MgSO4 and evaporated. The solid residue is triturated with hexane and dried in vacuo to yield the title compound (185 mg, 66%) as a grey solid. 1H-NMR (400 MHz, CDCl3) δ(ppm) 1.37 (12H, s), 4.45 (2H, s), 6.38 (1H, br s), 7.87 (1H, d), 7.93 (2H, m).

reactant | 5-Bromo-2,3-dihydro-isoindol-1-one | 1.08 mmol, 230 mg | BrC=1C=C2CNC(C2=CC1)=O | C8H6BrNO
reactant | bis(pinacolato)diboron | 1.18 mmol, 300 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 3.26 mmol, 320 mg | CC(=O)[O-].[K+]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-2,3-dihydro-isoindol-1-one | 185 mg, 66% | CC1(OB(OC1(C)C)C=1C=C2CNC(C2=CC1)=O)C | C14H18BNO3
